US09193707B2
6. Synthesis of 6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylic acid
Into a 100-mL round-bottom flask, was placed methyl 6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylate (1.0 g, 2.69 mmol, 1.00 equiv), tetrahydrofuran (10 mL) and sodium hydroxide (10 mL, 20%). The resulting solution was stirred for 0.5 h at room temperature. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 100 mL of dichloromethane. The pH value of the solution was adjusted to 2 with hydrogen chloride (20%). The solids were collected by filtration. This resulted in 0.6 g (62%) of 6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylic acid as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 3.75-3.80 (m, 3H), 3.91-3.96 (m, 6H), 7.89 (s, 2H), 8.02-8.07 (m, 1H), 8.22-8.27 (m, 2H); MS (ESI) m/z 359 ([M+H]+).

reactant | methyl 6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylate | 2.69 mmol, 1.0 g, 1.00 equiv | FC=1C=C2C(=NC(=NC2=CC1)C1=CC(=C(C(=C1)OC)OC)OC)C(=O)OC | C19H17FN2O5
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylic acid | FC=1C=C2C(=NC(=NC2=CC1)C1=CC(=C(C(=C1)OC)OC)OC)C(=O)O | C18H15FN2O5
